US04710573
(a) 4-(2,5-difluorobenzoyl)-1-methylpiperidine
To a stirred suspension of Mg (9.62 g, 0.40 moles) in tetrahydrofuran (THF) (45 ml) was added a few ml of bromoethane to initiate the reaction followed by dropwise addition of freshly distilled 4-chloro-N-methylpiperidine (42.3 g, 6.32 moles) in THF (140 ml). The reaction was initiated with a high intensity heat gun and controlled by the rate of addition of the piperidine. After the addition was complete, the reaction was refluxed for 1 hour. Next 2,5-difluorobenzonitrile (48.2 g, 0.318 moles) in THF (20 ml) was added and the reaction was refluxed for an additional 3 hours. The reaction was allowed to stand for 65 hours and was then poured into a solution of NH4Cl/H2O (120 g/400 ml). The mixture was heated on a steam bath for 2 hours, cooled and extracted with ether (500 ml.). Concentration produced an oil (50.6 g) which the product was distilled from (112° C. @ 0.5 mm) to yield 30.4 g (40%) of the product.

reactant | bromoethane | BrCC | C2H5Br
reactant | 4-chloro-N-methylpiperidine | 6.32 moles, 42.3 g | ClC1CCN(CC1)C | C6H12ClN
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 2,5-difluorobenzonitrile | 0.318 moles, 48.2 g | FC1=C(C#N)C=C(C=C1)F | C7H3F2N
reactant | NH4Cl H2O | 400 ml, 120 g | [NH4+].[Cl-].O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | THF | 140 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | 4-(2,5-difluorobenzoyl)-1-methylpiperidine | 50.6 g | FC1=C(C(=O)C2CCN(CC2)C)C=C(C=C1)F | C13H15F2NO
